US05272128
O-Isopropyl P-Ethyl[[(2,6-dichlorophenyl)sulfonyloxy]methyl]phosphinate (Compound 132)
A solution of 19.6 g of 2,6-dichlorobenzenesulfonyl chloride dissolved in 70 ml of methylene chloride was added dropwise over 40 minutes to a mixture of 25 ml of methylene chloride, 15.0 ml of triethylamine, 1.0 g of DMAP, and 16.5 g of O-isopropyl P-ethyl(hydroxymethyl)phosphinate, (Example 22, Method A). The addition caused a mild exotherm and the reaction was allowed to stir at room temperature overnight. The reaction mixture was then washed with two 50 ml portions of water, the phases separated, the organic phase dried with magnesium sulfate, filtered, and concentrated to yield 19.6 g of the desired product as a yellow oil. The crude product was diluted with 10 ml of methylene chloride and flash chromatographed using blends of ethyl acetate and hexanes. Similar fractions were combined and rechromatographed to yield 0.95 g of the desired product.

reactant | 2,6-dichlorobenzenesulfonyl chloride | 19.6 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | triethylamine | 15.0 ml | C(C)N(CC)CC | C6H15N
reactant | O-isopropyl P-ethyl(hydroxymethyl)phosphinate | 16.5 g | C(C)P(OC(C)C)(=O)CO | C6H15O3P
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | O-Isopropyl P-Ethyl[[(2,6-dichlorophenyl)sulfonyloxy]methyl]phosphinate | 19.6 g | C(C)P(OC(C)C)(=O)COS(=O)(=O)C1=C(C=CC=C1Cl)Cl | C12H17Cl2O5PS
